US04975448
A mixture of 6-nitrobenzothiazole-2-sulfonamide (3.0 g, 0.011 mol), 95% ethanol (290 ml), and 10% Pd on carbon (3.0 g) was hydrogenated at an initial pressure of 50 psig for 36 hours during which time the theoretical amount of hydrogen was consumed. The reduction mixture was vacuum filtered through a pad of Celite contained in a Buchner funnel and the volatiles removed under reduced pressure. The resulting product was purified by dissolving in aqueous 10% sodium carbonate (25 ml), filtering and adjusting the pH of the filtrate to 6 with glacial acetic acid. The precipitated product was collected by vacuum filtration in a Buchner funnel and dried under reduced pressure at 78° C. in an Abderhalden to give 2.2 g (82.9% yield) of 6-aminobenzothiazole-2-sulfonamide: m.p. 221°-222° C., Anal. (C7H7N3O2S2) CHN.

reactant | 6-nitrobenzothiazole-2-sulfonamide | 0.011 mol, 3.0 g | [N+](=O)([O-])C1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H5N3O4S2
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | 3.0 g | [Pd] | Pd
solvent | ethanol | 290 ml | C(C)O | C2H6O
product | 6-aminobenzothiazole-2-sulfonamide | 2.2 g, 82.9% yield | NC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H7N3O2S2
